US05298652
Sodium hydroxide hydrolysis of N-(2-ethoxy-2-oxoethyl)-N-[3-[3-(4-methoxyphenoxy)propoxy]-5-(octadecyloxy)benzoyl]glycine ethyl ester as in Example 11 gave N-(carboxymethyl)-N-[3-[3-(4-methoxyphenoxy)propoxy]-5-(octadecyloxy)benzoyl]glycine which gave nmr and mass spectra consistent with the structure.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N-(2-ethoxy-2-oxoethyl)-N-[3-[3-(4-methoxyphenoxy)propoxy]-5-(octadecyloxy)benzoyl]glycine ethyl ester | C(C)OC(CN(C(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)OC)=O)CC(=O)OCC)=O | C43H67NO9
product | N-(carboxymethyl)-N-[3-[3-(4-methoxyphenoxy)propoxy]-5-(octadecyloxy)benzoyl]glycine | C(=O)(O)CN(CC(=O)O)C(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)OC)=O | C39H59NO9
